US06949571B2
3-(2-Cyanophenyl)-5-(2-pyridyl)-2-methoxypyridine
Tetrakistriphenylphosphine palladium (0.15 g) was added to a mixed solution of 0.50 g of 5-(2-pyridyl)-3-bromo-2-methoxypyridine, 0.42 g of 2-(2-cyanophenyl)-1,3,2-dioxaborinate, 0.82 g of cesium carbonate and 20 ml of dimethylformamide and the mixture was stirred at 140° C. in a nitrogen atmosphere for 5 hours. After cooling to room temperature, ethyl acetate was added thereto, the mixture was washed with water and a saturated saline solution and dried over magnesium sulfate. The solvent was concentrated in vacuo and the residue was purified by a silica gel column chromatography (ethyl acetate:hexane=1:3) to give 0.36 of the title compound as pale yellow powder.

reactant | 5-(2-pyridyl)-3-bromo-2-methoxypyridine | 0.50 g | N1=C(C=CC=C1)C=1C=C(C(=NC1)OC)Br | C11H9BrN2O
reactant | 2-(2-cyanophenyl)-1,3,2-dioxaborinate | 0.42 g | C(#N)C1=C(C=CC=C1)B1OC=CC(O1)C(=O)[O-]
reactant | cesium carbonate | 0.82 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-Cyanophenyl)-5-(2-pyridyl)-2-methoxypyridine | C(#N)C1=C(C=CC=C1)C=1C(=NC=C(C1)C1=NC=CC=C1)OC | C18H13N3O
